US07176217B2
To a solution of ethyl (1R, 3R, 4S)-2-[(S)-1-phenylethyl]-2-azabicyclo[2.2.1]hept-5-ene-3-carboxylate (3.84 g, 14.2 mmol) in ethyl acetate (28 ml) was added 20 wt % Pd(OH)2 (4.97 g), and the mixture was stirred under a hydrogen atmosphere at 45° C. 64 hours. After a filtration through Celite, the solvent was concentrated. The residue was purified by silica gel column chromatography (1%–5% methanol/chloroform), to give ethyl (1S, 3R, 4R)-2-azabicyclo[2.2.1]heptane-3-carboxylate (0.595 g, 25%).

reactant | ethyl (1R, 3R, 4S)-2-[(S)-1-phenylethyl]-2-azabicyclo[2.2.1]hept-5-ene-3-carboxylate | 14.2 mmol, 3.84 g | C1(=CC=CC=C1)[C@H](C)N1[C@H]2C=C[C@@H]([C@@H]1C(=O)OCC)C2 | C17H21NO2
solvent | ethyl acetate | 28 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OH)2 | 4.97 g | [OH-].[OH-].[Pd+2]
product | ethyl (1S, 3R, 4R)-2-azabicyclo[2.2.1]heptane-3-carboxylate | 0.595 g, 25% | [C@H]12N[C@H]([C@H](CC1)C2)C(=O)OCC | C9H15NO2
